US06821971B2
Preparation of 2-(4-Fluorophenyl)-6,7-dihydroxy-3-[2-(1-phenylethylamino)-pyrimidin-4-yl]-5,6,7,8-tetrahydropyrazolo[1,2-a]pyridazin-1-one (14):
To a solution of 2-(4-fluorophenyl)-3-[2-(1-phenylethylamino)pyrimidin-4-yl]-5,8-dihydro-pyrazolo[1,2-a]pyridazin-1-one, 13, (0.8 g, 1.88 mmol) in t-BuOH:H2O (24 mL of 1:1 mixture) is added K3Fe(CN)6 (1.9 g, 5.64 mmol), K2CO3 (0.8 g, 5.6 mmol) and NaHCO3 (0.5 g, 5.6 mmol), followed by osmium tetroxide (0.1 g, 0.3 mmol). The resulting mixture is stirred at room temperature for 12 hours. The reaction is quenched by the addition of aqueous saturated KHSO4 solution (10 mL). The aqueous phase is extracted with EtOAc (3×) and the combined organic phases are dried, filtered and concentrated in vacuo. The resulting crude product is purified over silica (100% EtOAc) to afford 0.4 g (48% yield) of the desired product.

reactant | 2-(4-fluorophenyl)-3-[2-(1-phenylethylamino)pyrimidin-4-yl]-5,8-dihydro-pyrazolo[1,2-a]pyridazin-1-one | FC1=CC=C(C=C1)C1=C(N2N(CC=CC2)C1=O)C1=NC(=NC=C1)NC(C)C1=CC=CC=C1 | C25H22FN5O
reactant | H2O | 24 mL | O | H2O
reactant | K2CO3 | 5.6 mmol, 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 5.6 mmol, 0.5 g | C(=O)(O)[O-].[Na+]
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | osmium tetroxide | 0.3 mmol, 0.1 g | [Os](=O)(=O)(=O)=O
product | 2-(4-Fluorophenyl)-6,7-dihydroxy-3-[2-(1-phenylethylamino)-pyrimidin-4-yl]-5,6,7,8-tetrahydropyrazolo[1,2-a]pyridazin-1-one | 0.4 g, 48% yield | FC1=CC=C(C=C1)C1=C(N2N(CC(C(C2)O)O)C1=O)C1=NC(=NC=C1)NC(C)C1=CC=CC=C1 | C25H24FN5O3
